US08466181B2
1-Azido-4-fluoro-benzene
Prepared in analogy to J. Org. Chem. (1989) 54:5938-5945. To a solution of sulfuric acid (40 mL) and trifluoroacetic acid (200 mL) was added 4-fluoroaniline (22.1 mL, 0.23 mol) dropwise. Then under ice-cooling a solution of sodium nitrite (20.6 g, 0.3 mol) in water (200 mL) was added over 30 min at 15-18° C. The solution was then stirred for 30 min while kept in the ice bath. A solution of sodium azide (25.42 g, 0.39 mol) in water (150 mL) was added dropwise over 30 min. Mixture was foaming and temperature went up to 10° C. while cooling with an ice bath. Reaction mixture was stirred without cooling for 1 h, then extracted with diethyl ether. The combined organic layers were washed with water two times. Then the combined organic layers were diluted with saturated aqueous sodium carbonate solution (500 mL) until the mixture became basic. The organic phase was separated and washed with brine, extracted again with diethyl ether. The organic layers were dried over sodium sulfate and evaporated at 40° C., minimum 50 mbar (already distillation of product), to afford the title product (30.42 g, 96%) as a brown liquid.

reactant | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
reactant | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-fluoroaniline | 0.23 mol, 22.1 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium nitrite | 0.3 mol, 20.6 g | N(=O)[O-].[Na+]
reactant | sodium azide | 0.39 mol, 25.42 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | 1-Azido-4-fluoro-benzene | 30.42 g, 96% | N(=[N+]=[N-])C1=CC=C(C=C1)F | C6H4FN3
